US06071909
Step 4: 1-[3-(Morpholin-4-ylcarbonyl)phenyl]-5-methylbenzimidazole
A mixture of 1-(3-carboxyphenyl)-5-methylbenzimidazole (50 mg, 0.19 mM), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide, HCl (76 mg, 0.39 mM), hydroxybenzotriazole (53 mg, 0.39 mM) in dimethylformamide (2 ml) was treated with triethylamine (80 μl, 0.39 mM) and morpholine (20 μl, 0.22 mM) and the reaction stirred for 18 hours at room temperature under N2. Dilution with water and extractive work up with ethyl acetate was followed by chromatography on silica gel. Yield 37 mg. 1H NMR (360 MHz, DMSO) 2.51 (3H, s), 3.47-3.73 (8H, m), 7.16 (1H, d, J=8.3 Hz), 7.41 (1H, d, J=8.3 Hz), 7.45 and 7.47 (1H, dt, J=1.4 Hz, 7.0 Hz), 7.57-7.60 (3H, m), 7.66 (1H, s) and 8.08 (1H, s). MS M+ 322.

reactant | 1-(3-carboxyphenyl)-5-methylbenzimidazole | 0.19 mM, 50 mg | C(=O)(O)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C | C15H12N2O2
reactant | hydroxybenzotriazole | 0.39 mM, 53 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 0.39 mM, 80 μl | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.22 mM, 20 μl | N1CCOCC1 | C4H9NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[3-(Morpholin-4-ylcarbonyl)phenyl]-5-methylbenzimidazole | N1(CCOCC1)C(=O)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C | C19H19N3O2
